.circuit
V1 n1 GND dc 10
R1 n1 n2 2
R2 n2 GND 3
R3 n2 n3 5
RL n3 GND 1
.end


Solutions

V_n1:  1.e+01 + 0.e+00j
V_n2:  5.00000e+00 + 0.e+00j
V_n3:  8.33333e-01 + 0.e+00j
I_V1:  -2.5e+00 + 0.e+00j
