.circuit
V1 n1 GND ac 1 0
R1 n1 n2 4.5e3
L1 n2 n3 80.96e-6
C1 n3 GND 2.485e-12
L2 n3 n4 80.96e-6
R2 n4 GND 4e3
.end
.ac V1 1e3


Solutions

V_n1:  5.e-01 + 0.e+00j
V_n2:  2.35294e-01 + 2.39031e-05j
V_n3:  2.35294e-01 + -6.01968e-06j
V_n4:  2.35294e-01 + -3.59424e-05j
I_V1:  -5.88235e-05 + 5.31179e-09j
